US05449831
A 500-ml four-necked round bottom flask equipped with thermometer, mechanical stirrer, Dimroth condenser and chlorine-introducing tube was charged with 570.0 g (2.5 mol) of o-trifluoromethylbenzalchloride, 11.5 g (2.5 mol %) of ferric chloride and 1.5 g (0.5 mol %) of iodine. Then, the reaction temperature was raised to 60° C. while the mixture was kept stirred. When the reaction temperature reached 60° C., chlorination was started by continuously introducing chlorine at a rate of 0.5 mol/hr. After the lapse of 2 hr, the reaction temperature was raised to 80° C., and then the reaction was continued for another 5 hr. After the 7-hr reaction, conversion was 97.0%. Then, the reaction liquid was put into a 1000-ml separating funnel, and washed two times with 500 ml of water. The mixed liquid was allowed to separate into two layers and the aqueous layer was removed. The organic phase was dried with magnesium sulfate, and then magnesium sulfate was removed by vacuum filtration. As the result, 634.2 g of 2-trifluoromethyl-4-chlorobenzalchloride (purity: 72.1%) was obtained. The yield of this product was 69.4%. The product was analyzed by gas chromatography, and the result is as follows.

reactant | chlorine | ClCl | Cl2
reactant | o-trifluoromethylbenzalchloride | 2.5 mol, 570.0 g | FC(C1=C(C(Cl)Cl)C=CC=C1)(F)F | C8H5Cl2F3
reactant | iodine | 1.5 g | II | I2
product | 2-trifluoromethyl-4-chlorobenzalchloride | 634.2 g | FC(C1=C(C(Cl)Cl)C=CC(=C1)Cl)(F)F | C8H4Cl3F3
